US05455260
To a solution of 2-phenylethanol (9.09 g; 72.9 mmol) dissolved in THF (75 ml) and cooled to 0° C. is added NaH (60%; 3.5 g; 87 mmol) in portions over 10 minutes. The mixture is allowed to warm to room temperature, stirred for 45 minutes and cooled. Allyl bromide (6.3 ml; 73 mmol) is added and the mixture is brought to room temperature and stirred vigorously. The reaction mixture is heated at 45° C. for 3 hours, quenched with MeOH, diluted with Et2O, washed with H2O 3× and brine, dried (MgSO4) and concentrated to dryness. The resultant yellow oil is purified by column chromatography using 10% ether/petroleum ether to give 2-allyloxyethylbenzene as a clear oil which is used directly in Step B.

reactant | 2-phenylethanol | 72.9 mmol, 9.09 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | NaH | 87 mmol, 3.5 g | [H-].[Na+]
reactant | Allyl bromide | 73 mmol, 6.3 ml | C(C=C)Br | C3H5Br
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 2-allyloxyethylbenzene | C(C=C)OCCC1=CC=CC=C1 | C11H14O
